US07091220B2
3-(Dimethylaminophenylmethyl)-1H-indol-4-ol
The preparation was carried out in accordance with general synthesis instructions 4 from 4-hydroxy-1H-indole and benzylidene-dimethyl-ammonium chloride, which had been prepared in accordance with example 1.

reactant | 4-hydroxy-1H-indole | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | 3-(Dimethylaminophenylmethyl)-1H-indol-4-ol | CN(C)C(C1=CNC=2C=CC=C(C12)O)C1=CC=CC=C1 | C17H18N2O
